US07777047B2
(2-{5-(2-methoxyethoxy)-7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid
A mixture of ethyl (2-{5-(2-methoxyethoxy)-7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetate (300 mg), 1N aqueous sodium hydroxide solution (2 mL), tetrahydrofuran (2 mL) and ethanol (2 mL) was stirred at room temperature for 15 hr. The reaction mixture was acidified with aqueous citric acid solution, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated to give the title compound (280 mg, yield 97%) as yellow crystals. The crystals were recrystallized from ethyl acetate-hexane to give yellow prism crystals. melting point 113-114° C.

reactant | ethyl (2-{5-(2-methoxyethoxy)-7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetate | 300 mg | COCCOC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C=1SC=CC1)C)C=1SC(CN1)CC(=O)OCC | C23H27N3O6S3
reactant | sodium hydroxide | 1N, 2 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | (2-{5-(2-methoxyethoxy)-7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid | 280 mg, yield 97% | COCCOC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C=1SC=CC1)C)C=1SC(CN1)CC(=O)O | C21H23N3O6S3
